US06667316B1
A mixture of (3R)-3-(7-amino-1-oxoisoindolin-2-yl)-3-(3-ethoxy-4-methoxy-phenyl)-N,N-dimethylpropanamide (450 mg, 1 mmol) and cyclopropane carbonyl chloride (0.13 mL, 1.4 mmol) in tetrahydrofuran (5 mL) was heated to reflux for 15 min. To the mixture was added 50% sodium hydrogen carbonate (40 mL) and ethyl acetate (50 mL). The organic layer was washed with sodium hydrogen carbonate (sat, 20 mL) and brine (20 mL), and dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. The oil was purified by column chromatography (Silica Gel, 1:1 ethyl acetate:methylene chloride) to give (3R)-3-[7-(cyclopropylcarbonylamino)-1-oxoisoindolin-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide as a white solid (0.35 g, 67% yield); mp, 92-94° C.; 1H NMR (CDCl3) ˜0.82-0.89 (m, 2H, CH2), 1.05-1.11 (m, 2H, CH2), 1.43 (t, J=6.9 Hz, 3H, CH3), 1.64-1.70 (m, 1H, CH), 2.90 (s, 3H, CH3), 3.05 (dd, J=5.5, 16 Hz, 1H, CHH), 3.10 (s, 3H, CH3), 3.52 (dd, J=9.5, 15 Hz, 1H, CHH), 3.84 (s, 3H, CH3), 4.07 (q, J=7 Hz, 2H, CH2), 4.26 (d, J=17 Hz, 1H, CHH), 4.44 (d, J=17 Hz, 1H, CHH), 5.60 (dd, J=5.7, 9.4 Hz,1H, NCH), 6.82 (d, J=8.7 Hz, 1H, Ar), 6.93-6.99 (m, 2H, Ar), 7.39 (t, J=7.9 Hz, 1H, Ar), 8.39 (d, J=8.2 Hz, 1H, Ar), 10.59 (s, 1H, NH); 13C NMR (CDCl3) δ8.04, 14.64, 16.03, 35.46, 36.19, 37.31, 48.72, 53.56, 55.85, 64.46, 111.41, 112.52, 116.56, 117.41, 117.82, 119.13, 131.79, 132.84, 137.84, 141.54, 148.48, 149.04, 169.50, 169.58, 172.51; Anal Calcd for C26H31N3O5+0.5 H2O: C, 65.81; H, 6.80; N, 8.85; H2O, 1.90. Found: C, 65.83; H, 6.72; N, 8.72; H2O, 1.94.

reactant | (3R)-3-(7-amino-1-oxoisoindolin-2-yl)-3-(3-ethoxy-4-methoxy-phenyl)-N,N-dimethylpropanamide | 1 mmol, 450 mg | NC=1C=CC=C2CN(C(C12)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC | C22H27N3O4
reactant | cyclopropane carbonyl chloride | 1.4 mmol, 0.13 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogen carbonate | 40 mL | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3R)-3-[7-(cyclopropylcarbonylamino)-1-oxoisoindolin-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide | 0.35 g, 67% yield | C1(CC1)C(=O)NC=1C=CC=C2CN(C(C12)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC | C26H31N3O5
